US05292767
trans-5-tert-butoxycarbonyl-2-(2-hydroxyethyl)tetrahydrothiophene (compound No. 3-1)
To a stirred solution of trans-5-tert-butoxycarbonyl-2-formylmethyltetrahydrothiophene (1.2 g) in ethanol, sodium borohydride (0.3 g) is added under ice-cooling and the mixture is stirred for 1 hour. Saturated sodium chloride solution is added to the mixture under ice-cooling and extracted with ethyl acetate. The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue is purified by a silica gel column chromatography to give the titled compound (compound No. 3-1).

reactant | trans-5-tert-butoxycarbonyl-2-formylmethyltetrahydrothiophene | 1.2 g | C(C)(C)(C)OC(=O)[C@H]1CC[C@@H](S1)CC=O | C11H18O3S
reactant | sodium borohydride | 0.3 g | [BH4-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | trans-5-tert-butoxycarbonyl-2-(2-hydroxyethyl)tetrahydrothiophene | C(C)(C)(C)OC(=O)[C@H]1CC[C@@H](S1)CCO | C11H20O3S
